US07910613B2
57: Cyclopropanecarboxylic acid [5-(5-methyl-[1,2,4]oxadiazol-3-yl)-4-phenyl-thiazol-2-yl]-amide
Prepared from 5-(5-methyl-[1,2,4]oxadiazol-3-yl)-4-phenyl-thiazol-2-ylamine and cyclopropanecarbonyl chloride.

reactant | 5-(5-methyl-[1,2,4]oxadiazol-3-yl)-4-phenyl-thiazol-2-ylamine | CC1=NC(=NO1)C1=C(N=C(S1)N)C1=CC=CC=C1 | C12H10N4OS
reactant | cyclopropanecarbonyl chloride | C1(CC1)C(=O)Cl | C4H5ClO
product | Cyclopropanecarboxylic acid [5-(5-methyl-[1,2,4]oxadiazol-3-yl)-4-phenyl-thiazol-2-yl]-amide | CC1=NC(=NO1)C1=C(N=C(S1)NC(=O)C1CC1)C1=CC=CC=C1 | C16H14N4O2S
